US05721234
6-Nitro-8-pyrrolidin-1-yl-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione
Nitration of 8-pyrrolidin-1-yl-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione as described before with fuming nitric acid in trifluoroacetic acid gave the product as a yellow solid (0.1 g). C15H16N4 O4.HCL. MS M+1 (317). HPLC 99%.

reactant | 8-pyrrolidin-1-yl-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione | N1(CCCC1)C1CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C15H17N3O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Nitro-8-pyrrolidin-1-yl-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione | 0.1 g | [N+](=O)([O-])C=1C2=C(C=3NC(C(NC3C1)=O)=O)CC(C2)N2CCCC2 | C15H16N4O4
